US05708187
6-benzyloxy-3-carboxy-1,2,3,4-tetrahydro-9H-carbazole Ethyl 6-benzyloxy-3-carboxy-1,2,3,4-tetrahydro-9H-carbazole
To a suspension of 3.242 gm (12.93 mMol) 4-benzyloxyphenylhydrazine hydrochloride in 80 mL ethanol were added 1.05 mL (12.93 mMol) pyridine. The resulting mixture was heated to 50° C. for about 20 minutes and then 1.87 mL (11.75 mMol) ethyl 4-oxocyclohexanecarboxylate were added. The resulting mixture was stirred at reflux for 18 hours. The reaction mixture was then concentrated under reduced pressure and the residue partitioned between water and ethyl acetate. The organic phase was separated, washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 35% ethyl acetate in hexane. Fractions containing product were combined and concentrated under reduced pressure to give 3.38 gm (83%) of the desired compound.

reactant | 4-benzyloxyphenylhydrazine hydrochloride | 12.93 mMol, 3.242 gm | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
reactant | pyridine | 12.93 mMol, 1.05 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl 4-oxocyclohexanecarboxylate | 11.75 mMol, 1.87 mL | O=C1CCC(CC1)C(=O)OCC | C9H14O3
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 6-benzyloxy-3-carboxy-1,2,3,4-tetrahydro-9H-carbazole Ethyl 6-benzyloxy-3-carboxy-1,2,3,4-tetrahydro-9H-carbazole | 3.38 gm, 83% | C(C)C1CC(CC=2C3=CC(=CC=C3NC12)OCC1=CC=CC=C1)C(=O)O.C(C1=CC=CC=C1)OC=1C=C2C=3CC(CCC3NC2=CC1)C(=O)O | InChI=1S/C22H23NO3.C20H19NO3/c1-2-15-10-16(22(24)25)11-19-18-12-17(8-9-20(18)23-21(15)19)26-13-14-6-4-3-5-7-14;22-20(23)14-6-8-18-16(10-14)17-11-15(7-9-19(17)21-18)24-12-13-4-2-1-3-5-13/h3-9,12,15-16,23H,2,10-11,13H2,1H3,(H,24,25);1-5,7,9,11,14,21H,6,8,10,12H2,(H,22,23)
